data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_499097_0,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:4]([N:3]([C:7](=[O:8])[H:12])[H:9])[N:6]([H:10])[H:11])([H:13])([H:14])[H:18]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:3]/[H:9])[N:6]([H:10])[H:11])[C:7](=[O:8])[H:12])([H:13])([H:14])[H:18],48.29428249998614
MR_73572_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([N:6][O:5][H:7])[H:9])[H:8]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])=[C:4]([N:6]([O:5][H:7])[H:8])[H:9],70.54668749998328
MR_435906_2,[C:1]([C:2](=[C:4]([H:12])[H:13])[O:5][N:3]([H:8])[H:9])([O:6][H:7])([H:10])[H:11]>>[C:1]([C:2]([C:4]([N:3]([H:8])[H:9])([H:12])[H:13])=[O:5])([O:6][H:7])([H:10])[H:11],52.39750500000625
MR_289051_0,[C:1]([C:2]([H:11])([H:12])[H:13])([O:6][H:8])([N:7]([C:4]([C:3]([H:14])([H:15])[H:16])=[O:5])[H:10])[H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:5]/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[H:10])([O:6][H:8])[H:9],62.40361999999706
MR_184907_2,[C:1](=[C:6](/[C:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:11])[H:12])[O:7][C:2]([H:14])([H:15])[H:16])[H:13])(\[O:8][H:9])[H:10]>>[C:1](/[C:6](=[C:4](\[C:3]([H:17])([H:18])[H:19])[N:5]([H:11])[H:12])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])([O:8][H:9])[H:10],39.072542500012446
MR_543375_1,[C:1]([C@@:2]([C:4]([O:8][H:10])=[O:9])([N:7]([H:16])[H:17])[H:11])([C:3]([H:18])([H:19])[H:20])([N:5]([H:12])[H:13])[N:6]([H:14])[H:15]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]1([O:8][H:10])[C:2]([N:7]([H:16])[H:17])([H:11])[O:9]1)([N:5]([H:12])[H:13])[N:6]([H:14])[H:15],50.00296499998811
MR_3651_2,[C:1]([C:2]([C:4]([C:3]([H:12])([H:13])[H:14])=[O:6])([H:10])[H:11])([O:5][H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4]([C:3]([H:12])([H:13])[H:14])([O:6][H:7])[H:9])([H:10])[H:11])(=[O:5])[H:8],60.01033500001142
MR_310611_0,[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([O:5][O:4][O:6][H:7])([H:8])[H:9]>>[C:1]([O:4][O:6][H:7])([O:5][C:2](=[C:3]([H:11])[H:12])[H:10])([H:8])[H:9],53.87652249998169
MR_100074_0,[C@:1]([C:2]([O:7][C:4]([H:17])([H:18])[H:19])([H:12])[H:13])([N:5]([H:10])[H:11])([O:6][C:3]([H:14])([H:15])[H:16])[O:8][H:9]>>[C@@:1]([C:2]([O:6][C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([N:5]([H:10])[H:11])([O:7][C:4]([H:17])([H:18])[H:19])[O:8][H:9],71.61657499999293
MR_489107_1,[C:1](/[C:3]([O:4][H:8])=[N:6]/[C:2]([H:11])([H:12])[H:13])([N:5]=[O:7])([H:9])[H:10]>>[C:1](=[C:3]([O:4][H:8])[N:6]([C:2]([H:11])([H:12])[H:13])[N:5]=[O:7])([H:9])[H:10],28.34040999999985
MR_261781_1,[N:1]([C:3]12[N:2]([H:10])[N:7]1[C:4]([H:11])=[C:5]2[H:12])([O:6][H:8])[H:9]>>[N:1]([c:3]1[n:2]([H:10])[n:7][c:4]([H:11])[c:5]1[H:12])([O:6][H:8])[H:9],5.454229999997722
MR_362819_0,[C:1]([C:2]([N:4]([H:10])[H:11])=[O:8])(/[C:3]([N:5]([H:12])[H:13])=[N:7]/[O:6][H:9])([H:14])[H:15]>>[C:1](=[C:3]([N:5]([H:12])[H:13])[N:7]([C:2]([N:4]([H:10])[H:11])=[O:8])[O:6][H:9])([H:14])[H:15],63.08759499998232
MR_677411_2,[C:1]([C:4]([C:2]([C:3]([H:18])([H:19])[H:20])([H:14])[H:15])([C:5](=[C:6]([H:16])[H:17])[O:9][H:13])[O:10][H:12])([O:7][H:11])=[O:8]>>[C:1]([C:2]([C:3]([H:18])([H:19])[H:20])([H:14])[H:15])([C:4]([C:5](=[C:6]([H:16])[H:17])[O:9][H:13])=[O:10])([O:7][H:11])[O:8][H:12],48.22965000000664
MR_110966_2,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])([C:6]([N:5]([C:3]([H:17])([H:18])[H:19])[H:10])=[O:8])([N:7]([H:12])[H:13])[H:11]>>[C:1](\[C:6]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])([N:5]([C:3]([H:17])([H:18])[H:19])[H:10])[O:8][H:12])(=[N:7]/[H:13])[H:11],53.86146250001971
MR_435723_0,[C:1]([C:2]([C:4]([N:6]([H:17])[H:18])=[O:10])([N:5]([H:15])[H:16])[H:14])([C:3]([O:8][H:12])=[O:9])([O:7][H:11])[H:13]>>[C:1](/[C:2](=[N:5]/[H:15])[H:14])([C:3]([C:4]([N:6]([H:17])[H:18])=[O:10])([O:8][H:12])[O:9][H:16])([O:7][H:11])[H:13],67.60559500002529
MR_472325_1,[C@:1]([C:3]([H:18])([H:19])[H:20])([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])(/[C:5]([N:6]([H:12])[H:13])=[C:7](/[O:8][H:10])[H:14])[H:11]>>[C@@:1]1([C:3]([H:18])([H:19])[H:20])([H:11])[C@@:5]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([N:6]([H:12])[H:13])[C@:7]1([O:8][H:10])[H:14],68.4834674999847
MR_533185_1,[N:1](=[C:2](\[N:4]([H:9])[H:10])[C:6]1([H:13])[C:3]([N:5]([H:11])[H:12])=[N:7]1)\[H:8]>>[n:1]1([H:8])[c:2]([N:4]([H:9])[H:10])[c:6]([H:13])[c:3]([N:5]([H:11])[H:12])[n:7]1,52.02100499999375
MR_473300_1,[N:1]([N:3]/[N:2]=[N:4]\[C:6][N:5][H:9])([H:7])[H:8]>>[N:1]([N:3]1[N:2][N:4]=[C:6]1[N:5][H:9])([H:7])[H:8],35.79448249997782
MR_50084_2,[C:1]([C:3]([H:13])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[O:8])([O:6][C:2]([H:10])([H:11])[H:12])[O:7][H:9]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[C:5]([C:4]([H:16])([H:17])[H:18])([O:6][C:2]([H:10])([H:11])[H:12])[O:8]1,51.66333000000506
MR_423360_0,[C:1]([C:2]([C:3]1([N:4]([H:9])[H:10])[C:5]([H:11])=[C:6]1[H:15])([O:7][H:8])[H:16])([H:12])([H:13])[H:14]>>[C:1](/[C:2](=[C:3](/[N:4]([H:9])[H:10])[C:6](=[C:5]([H:11])[H:16])[H:15])[O:7][H:8])([H:12])([H:13])[H:14],64.05520000000053
